US09169255B2
8-Bromo-1,3,7-trimethyl-xanthine
A solution of 8-bromo-3-methyl xanthine (300 mg; 1.2 mmol) and methyl iodide (1.42 g; 10.0 mmol) in N,N-dimethylformamide (5 ml) was added to potassium carbonate (662 mg; 4.8 mmol) and was heated to 60° C. for 6 hrs. The reaction mixture was poured in water (25 ml) and extracted with ethyl acetate (3×25 ml). The combined extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The product was purified by flash chromatography over silica gel eluting with ethyl acetate to yield the desired product. 315 mg; 92% PRO-04-45

reactant | 8-bromo-3-methyl xanthine | 1.2 mmol, 300 mg | BrC1=NC=2N(C(NC(C2N1)=O)=O)C | C6H5BrN4O2
reactant | methyl iodide | 10.0 mmol, 1.42 g | CI | CH3I
reactant | potassium carbonate | 4.8 mmol, 662 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 25 ml | O | H2O
product | 8-Bromo-1,3,7-trimethyl-xanthine | BrC1=NC=2N(C(N(C(C2N1C)=O)C)=O)C | C8H9BrN4O2
